US04264510
A solution of 3.38 g of 1,2,3,4,8a,9,10,10a-octahydro-2,3-dimethylene-1,4-epoxyanthracene-5,8-dione in 50 ml of methylene chloride and 50 ml of methanol was cooled to -70° C. and treated under nitrogen with 2.04 g of tetra-n-butylammonium borohydride in 10 ml of methylene chloride. The mixture was then stirred at -70° C. for 1.75 hours. After the addition of 100 ml of aqueous ammonium chloride solution, the solution was stirred for a further 1 hour. The phases were separated, the aqueous phase was extracted twice with 50 ml of methylene chloride each time and the combined organic phases were washed with two 100 ml portions of water and subsequently dried over magnesium sulphate. After concentration and recrystallisation, there were obtained 2.52 g (74%) of 1,2,3,4,5,8,8a,9,10,10a-decahydro-2,3-dimethylene-1,4-epoxy-8-hydroxy-anthracen-5-one of melting point 206°-207° C.

reactant | 1,2,3,4,8a,9,10,10a-octahydro-2,3-dimethylene-1,4-epoxyanthracene-5,8-dione | 3.38 g | C=C1C2C=3CC4C(C=CC(C4CC3C(C1=C)O2)=O)=O | C16H14O3
reactant | tetra-n-butylammonium borohydride | 2.04 g | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1,2,3,4,5,8,8a,9,10,10a-decahydro-2,3-dimethylene-1,4-epoxy-8-hydroxy-anthracen-5-one | 2.52 g, 74% | C=C1C2C=3CC4C(C=CC(C4CC3C(C1=C)O2)=O)O | C16H16O3
